US04866091
A mixture of 3-(2,4-difluorophenoxy)-4-nitrobenzoic acid (1 g) and phosphorus pentachloride (0.74 g) in benzene (10 ml) was stirred for 30 minutes at room temperature. Benzene was evaporated under reduced pressure to give an oil of 3-(2,4-difluorophenoxy)-4-nitrobenzoyl chloride (1.1 g).

reactant | 3-(2,4-difluorophenoxy)-4-nitrobenzoic acid | 1 g | FC1=C(OC=2C=C(C(=O)O)C=CC2[N+](=O)[O-])C=CC(=C1)F | C13H7F2NO5
reactant | phosphorus pentachloride | 0.74 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(2,4-difluorophenoxy)-4-nitrobenzoyl chloride | 1.1 g | FC1=C(OC=2C=C(C(=O)Cl)C=CC2[N+](=O)[O-])C=CC(=C1)F | C13H6ClF2NO4
